US08202868B2
c.4.1: Acetic acid 3-[4-(2-tert-butyl-6-cyclopropyl-pyrimidin-4-yl)-piperazin-1-yl]-propyl ester
2.9 g of 2-tert-Butyl-4-piperazin-1-yl-6-cyclopropyl-pyrimidine (11.1 mmol), 1.8 g acetic acid 3-chloro-propyl ester (13.2 mmol), 1.38 g of triethylamine (13.7 mmol), and a spatula tip of sodium iodide were dissolved in 50 ml of dimethylformamide and stirred for 8 h at 80° C. After cooling to room temperature, the dimethylformamide was evaporated. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and the solvent was evaporated. The crude product (3.7 g) was directly used in the subsequent reaction step.

reactant | 2-tert-Butyl-4-piperazin-1-yl-6-cyclopropyl-pyrimidine | 11.1 mmol, 2.9 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCNCC1)C1CC1 | C15H24N4
reactant | acetic acid 3-chloro-propyl ester | 13.2 mmol, 1.8 g | ClCCCOC(C)=O | C5H9ClO2
reactant | triethylamine | 13.7 mmol, 1.38 g | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | [I-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Acetic acid 3-[4-(2-tert-butyl-6-cyclopropyl-pyrimidin-4-yl)-piperazin-1-yl]-propyl ester | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCOC(C)=O)C1CC1 | C20H32N4O2
